US06617359B2
Preparation of 4-Fluoro-N-(indan-2-yl)-benzamide
43.70 g (258 mol) 2-aminoindane hydrochloride and 53.43 g (528 mmol) triethylamine were mixed with 250 ml of tetrahydrofuran, 42.89 g (270 mmol) 4-fluorobenzoylchloride were added, and the mixture was stirred for 2 h at RT.

reactant | 2-aminoindane hydrochloride | 258 mol, 43.70 g | Cl.NC1CC2=CC=CC=C2C1
reactant | triethylamine | 528 mmol, 53.43 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoylchloride | 270 mmol, 42.89 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-Fluoro-N-(indan-2-yl)-benzamide | FC1=CC=C(C(=O)NC2CC3=CC=CC=C3C2)C=C1 | C16H14FNO
